US06214817B1
To a solution of diethyl 2,6-bis[(dimethoxy)methyl]-3,5-pyridine dicarboxylate (4.40 g, 11.9 mmol) in THF (80 ml) was added 2N HCl (80 ml), and the resulting mixture was heated to 50° C. for 30 minutes. At this time the reaction mixture was treated again with THF (80 ml) and 2N HCl (80 ml). After a total of 1.5 hours, TLC indicated that the reaction was complete (10/1 CHCl3/MeOH). The mixture was cooled and diluted with water (1 L). The pH was 0.94 and was therefore adjusted to 4.5 with solid NaHCO3. The mixture was extracted with EtOAc (2×300 ml) and the combined extracts were dried (MgSO4), filtered and concentrated to afford 1.78 g of crude 3,5-bis(ethoxycarbonyl)-2,6-pyridine dicarboxaldehyde as a yellow oil: 1H NMR (300 MHz, CDCl3) δ 10.42 (s, 2 H), 8.49 (s, 1 H), 4.57 (q, J=7.2 Hz, 4 H), 1.51 (t, J=7.2 Hz, 6 H). 13C NMR (75 MHz, CDCl3) dc 189.83 (s), 164.67 (s), 152.17, 138.75, 130.64, 63.11 (t), 13.90 (q). MS (LR-CI) m/z 280 [M+H]+.

reactant | diethyl 2,6-bis[(dimethoxy)methyl]-3,5-pyridine dicarboxylate | 11.9 mmol, 4.40 g | COC(C1=NC(=C(C=C1C(=O)OCC)C(=O)OCC)C(OC)OC)OC | C17H25NO8
reactant | HCl | 2N, 80 ml | Cl | ClH
reactant | HCl | 2N, 80 ml | Cl | ClH
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | water | 1 L | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3,5-bis(ethoxycarbonyl)-2,6-pyridine dicarboxaldehyde | 1.78 g | C(C)OC(=O)C=1C(=NC(=C(C1)C(=O)OCC)C=O)C=O | C13H13NO6
